* Schematics Netlist *



V_V1         $N_0001 0 20V
R_R1         $N_0003 $N_0002  10  
C_C1         0 $N_0002  10u  
X_U1         $N_0001 $N_0003 Sw_tClose PARAMS: tClose=0.1ms ttran=1u
+  Rclosed=0.01 Ropen=1Meg
