* Schematics Netlist *



R_R13         $N_0002 $N_0001  2  
V_V6         $N_0002 0 10V
R_R17         $N_0004 $N_0003  2  
R_R16         $N_0001 $N_0003  10  
R_R15         0 $N_0004  5  
R_R14         $N_0002 $N_0004  8  
R_R         0 $N_0003  25  
