* Schematics Netlist *



R_R6         $N_0002 $N_0001  2  
R_R10         $N_0003 $N_0002  1  
R_R12         $N_0005 $N_0004  2  
R_R9         $N_0006 $N_0005  3  
R_R7         $N_0003 $N_0006  4  
V_V1         $N_0003 0 15V
V_V2         $N_0005 0 10V
R_R8         $N_0001 $N_0004  1  
R_R11         $N_0006 $N_0001  2  
R_R13         0 $N_0006  8  
