* Schematics Netlist *



V_V12         $N_0001 0 5.676
R_R30         $N_0002 0  25  
R_R29         $N_0001 $N_0002  3.5675  
I_I1         0 $N_0003 DC 1.591030  
R_R32         0 $N_0003  25  
R_R31         0 $N_0003  3.5675  
